US07417169B2
Benzyl 4′-(2-hydroxyethoxy)-3′,5′-dimethylbiphenyl-4-carboxylate
Benzyl bromide (0.127 mL) was added to a mixture of 4′-(2-hydroxyethoxy)-3′,5′-dimethylbiphenyl-4-carboxylic acid (0.292 g) and potassium carbonate (0.169 g) in N,N-dimethylformamide (5 mL), and the mixture was stirred at room temperature overnight. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/3-1/2) to afford the title compound (0.381 g).

reactant | Benzyl bromide | 0.127 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 4′-(2-hydroxyethoxy)-3′,5′-dimethylbiphenyl-4-carboxylic acid | 0.292 g | OCCOC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)O)C | C17H18O4
reactant | potassium carbonate | 0.169 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzyl 4′-(2-hydroxyethoxy)-3′,5′-dimethylbiphenyl-4-carboxylate | 0.381 g | OCCOC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)OCC1=CC=CC=C1)C | C24H24O4
